### PR TITLE
feat: finpartition decomposition of a graph's edges

### PR DESCRIPTION
**Pull request by Parcly-Taxel**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Combinatorics/SimpleGraph/Maps.lean [hunk 1]
```diff
@@ -671,4 +671,56 @@ noncomputable def overFinIso (hc : Fintype.card V = n) : G ≃g G.overFin hc :=
 
 end Finite
 
+section CrossEdges
+
+variable (K : Set V)
+
+/-- The graph formed by retaining only those edges from `K` to `Kᶜ`. -/
+def crossEdges : SimpleGraph V where
+  Adj a b := G.Adj a b ∧ ¬(a ∈ K ↔ b ∈ K)
```
Comment (jcommelin) [inline Mathlib/Combinatorics/SimpleGraph/Maps.lean:680]: Could [Xor'](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Init/Logic.html#Xor') be helpful here?

**Review by YaelDillies — COMMENTED** [review]
Should you not generalise `crossEdges` to a general finpartition?

**Comment by Parcly-Taxel** [comment]
> Should you not generalise `crossEdges` to a general finpartition?

Two parts is good enough for my purposes.

**Comment by YaelDillies** [comment]
Sure, but that doesn't mean it's good enough for all of mathlib's purposes.

**Comment by Parcly-Taxel** [comment]
> Should you not generalise `crossEdges` to a general finpartition?

It can't be generalised that way; `K` or its complement may be empty.

**Comment by YaelDillies** [comment]
> `K` or its complement may be empty.

Do you actually care about that case in applications?

**Comment by Parcly-Taxel** [comment]
> Should you not generalise `crossEdges` to a general finpartition?

You asked for it, you have it. But I can't think of ways to make the proofs nicer.

File: Mathlib/Combinatorics/SimpleGraph/Finpartition.lean [hunk 2]
```diff
@@ -0,0 +1,157 @@
...
+import Mathlib.Order.Partition.Finpartition
+
+/-!
+# Dividing the edges of a graph by a vertex finpartition
+
+Consider a finpartition `P` of the vertices of a finite graph. `P` induces a coarser graph,
+whose "supervertices" are `P.parts` and whose "superedges" contain all regular edges whose vertices
+lie in the relevant parts.
+
+Then clearly taking the union over superedges of the contained edges gives back `G.edgeFinset`.
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Finpartition.lean:16]: This is very much not clear if your supergraph is simple, which is what I would have expected (you usually get rid of the edges internal to the parts since they are “bad” and few

File: Mathlib/Combinatorics/SimpleGraph/Finpartition.lean [hunk 3]
```diff
@@ -0,0 +1,157 @@
...
+
+open Finset
+
+namespace SimpleGraph
+
+variable {V : Type*} [Fintype V] [DecidableEq V] (G : SimpleGraph V) [DecidableRel G.Adj]
+  {P : Finpartition (univ : Finset V)}
+
+/-- The finset of edges whose endpoints lie in the given superedge's endpoint's parts.-/
+def crossEdges (se : Sym2 P.parts) : Finset (Sym2 V) :=
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Finpartition.lean:38]: We already use the name “interedges” in other parts of mathlib, so would be good to harmonise (although I don’t really care what to)

File: Mathlib/Combinatorics/SimpleGraph/Finpartition.lean [hunk 4]
```diff
@@ -0,0 +1,157 @@
...
+
+theorem card_edgeFinset_eq_sum_crossEdges_card :
+    G.edgeFinset.card = ∑ se : Sym2 P.parts, (G.crossEdges se).card := by
+  rw [← disjiUnion_crossEdges, card_disjiUnion]
+
+variable {K : Finset V}
+
+/-- A bipartition defined by one part, the other part being its complement.
+Both parts must be non-empty. -/
+def bipartition (h1 : K ≠ ∅) (h2 : K ≠ univ) : Finpartition (univ : Finset V) where
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Finpartition.lean:117]: Should be in an earlier file

File: Mathlib/Data/Sym/Card.lean [hunk 5]
```diff
@@ -189,9 +189,26 @@ theorem card_subtype_not_diag [Fintype α] :
   exact and_iff_right ⟨a, mem_univ _, ha⟩
 #align sym2.card_subtype_not_diag Sym2.card_subtype_not_diag
 
-/-- Type **stars and bars** for the case `n = 2`. -/
+/-- **Stars and bars** for the case `n = 2`. -/
```
Comment (YaelDillies) [inline Mathlib/Data/Sym/Card.lean:192]: Why? This says this is the version for fintypes, as opposed to the version for finsets

File: Mathlib/Combinatorics/SimpleGraph/Finpartition.lean (hunk 4 above)
Comment (Parcly-Taxel) [reply Mathlib/Combinatorics/SimpleGraph/Finpartition.lean]: All done.

File: Mathlib/Data/Sym/Card.lean [hunk 6]
```diff
@@ -179,4 +179,21 @@ theorem card_subtype_not_diag [Fintype α] :
...
+
+theorem univ_singleton : @univ (Sym2 ({a} : Finset α)) _ = {s(⟨a, by simp⟩, ⟨a, by simp⟩)} := by
+  ext p
+  simp_rw [mem_univ, mem_singleton, true_iff]
+  refine p.inductionOn fun ⟨x, hx⟩ ⟨y, hy⟩ ↦ ?_
+  rw [mem_singleton] at hx hy
+  simp [hx, hy]
+
+theorem univ_pair : @univ (Sym2 ({a, b} : Finset α)) _ = {s(⟨a, by simp⟩, ⟨a, by simp⟩),
+    s(⟨a, by simp⟩, ⟨b, by simp⟩), s(⟨b, by simp⟩, ⟨b, by simp⟩)} := by
```
Comment (YaelDillies) [inline Mathlib/Data/Sym/Card.lean:192]: When the type of your statement spans several lines, please start it on a new line. Same elsewhere
```suggestion
theorem univ_pair :
    @univ (Sym2 ({a, b} : Finset α)) _ = {s(⟨a, by simp⟩, ⟨a, by simp⟩),
      s(⟨a, by simp⟩, ⟨b, by simp⟩), s(⟨b, by simp⟩, ⟨b, by simp⟩)} := by
```

File: Mathlib/Order/Partition/Finpartition.lean [hunk 7]
```diff
@@ -586,6 +586,24 @@ theorem mem_part_ofSetoid_iff_rel {s : Setoid α} [DecidableRel s.r] {b : α} :
   simp only [← hc, mem_univ, mem_filter, true_and] at this ⊢
   exact ⟨s.trans (s.symm this), s.trans this⟩
 
+section Two
+
+/-- A bipartition defined by one part, the other part being its complement.
+Both parts must be non-empty. -/
+def bipartition (h1 : s ≠ ∅) (h2 : s ≠ univ) : Finpartition (univ : Finset α) where
```
Comment (YaelDillies) [inline Mathlib/Order/Partition/Finpartition.lean:593]: Why don't you define it as `indiscrete` if ever `s` is `∅` or `univ`?

File: Mathlib/Order/Partition/Finpartition.lean [hunk 8]
```diff
@@ -586,6 +586,24 @@ theorem mem_part_ofSetoid_iff_rel {s : Setoid α} [DecidableRel s.r] {b : α} :
...
+  parts := {s, sᶜ}
```
Comment (YaelDillies) [inline Mathlib/Order/Partition/Finpartition.lean:594]: In fact, this definition Just Works already

File: Mathlib/Order/Partition/Finpartition.lean (hunk 7 above)
Comment (Parcly-Taxel) [reply Mathlib/Order/Partition/Finpartition.lean:593]: `α` might not be inhabited, in which case no finpartition at all can be defined on `univ : Finset α`.

File: Mathlib/Combinatorics/SimpleGraph/Finpartition.lean [hunk 9]
```diff
@@ -0,0 +1,147 @@
...
+Then taking the union over superedges of the contained edges gives back `G.edgeFinset`.
+This file proves the fact and specialises it to the case when `P` has two parts, specified by one
+of the parts. This specialisation is intended for proving Turán's theorem
+(`Mathlib.Combinatorics.SimpleGraph.Turan`).
+
+## Main statements
+
+* `G.interEdges se`: given the superedge `se : Sym2 P.parts`, returns the finset of all edges of `G`
+  under said superedge.
+* `SimpleGraph.card_edgeFinset_eq_sum_interEdges_card`: the superedges partition `G`'s edges.
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Finpartition.lean:25]:
```suggestion
* `SimpleGraph.card_edgeFinset_eq_sum_interEdges_card`: the superedges partition the edges of `G`.
```
for clarity

File: Mathlib/Combinatorics/SimpleGraph/Finpartition.lean [hunk 10]
```diff
@@ -0,0 +1,147 @@
...
+-/
+
+open Finset
+
+namespace SimpleGraph
+
+variable {V : Type*} [Fintype V] [DecidableEq V] (G : SimpleGraph V) [DecidableRel G.Adj]
+  {P : Finpartition (univ : Finset V)}
+
+/-- The finset of edges whose endpoints lie in the given superedge's endpoint's parts.-/
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Finpartition.lean:37]:
```suggestion
/-- The finset of edges whose endpoints lie in the parts of the endpoint of the given superedge. -/
```
for clarity

File: Mathlib/Combinatorics/SimpleGraph/Finpartition.lean [hunk 11]
```diff
@@ -0,0 +1,147 @@
...
+def interEdges (se : Sym2 P.parts) : Finset (Sym2 V) :=
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Finpartition.lean:38]: Why not
```suggestion
def interEdges (se : Sym2 (Finset V)) : Finset (Sym2 V) :=
```

File: Mathlib/Combinatorics/SimpleGraph/Finpartition.lean [hunk 12]
```diff
@@ -0,0 +1,147 @@
...
+  · simp
+  · simp_rw [disjoint_iff_ne, mem_map, mem_filter, forall_exists_index, and_imp,
+      Function.Embedding.coeFn_mk]
+    intro _ m₁ _ _ l _ _ _ _ e₁ _ _ m₂ _ e₂; subst e₁ e₂
+    simp_rw [Ne, Sym2.eq_iff, l, false_and, false_or, not_and]
+    intro z; subst z; have := P.eq_of_mem_parts q.2 p.2 m₁ m₂
+    aesop
+
+theorem pairwiseDisjoint_interEdges :
+    (Set.univ : Set (Sym2 P.parts)).PairwiseDisjoint G.interEdges := by
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Finpartition.lean:93]: ... then this becomes
```suggestion
theorem pairwiseDisjoint_interEdges :
    (P.parts.sym2 : Set (Sym2 P.parts)).PairwiseDisjoint G.interEdges := by
```

File: Mathlib/Data/Sym/Card.lean [hunk 13]
```diff
@@ -179,4 +179,22 @@ theorem card_subtype_not_diag [Fintype α] :
...
+  simp [hx, hy]
+
+theorem univ_pair :
+    @univ (Sym2 ({a, b} : Finset α)) _ = {s(⟨a, by simp⟩, ⟨a, by simp⟩),
+      s(⟨a, by simp⟩, ⟨b, by simp⟩), s(⟨b, by simp⟩, ⟨b, by simp⟩)} := by
+  ext p
+  simp_rw [mem_univ, mem_insert, mem_singleton, true_iff]
+  refine p.inductionOn fun ⟨x, hx⟩ ⟨y, hy⟩ ↦ ?_
+  rw [mem_insert, mem_singleton] at hx hy
+  rcases hx with hx | hx <;> rcases hy with hy | hy <;> simp [hx, hy]
```
Comment (YaelDillies) [inline Mathlib/Data/Sym/Card.lean:198]: ... and those become `Finset.sym2_singleton` (which already exists) and `Finset.sym2_pair`

File: Mathlib/Order/Partition/Finpartition.lean (hunk 8 above)
Comment (YaelDillies) [reply Mathlib/Order/Partition/Finpartition.lean:594]: So why have `properBipartition` as a separate definition?

Comment (Parcly-Taxel) [reply Mathlib/Order/Partition/Finpartition.lean:594]: I couldn't get `bipartition` to work with `parts := {s, sᶜ}` and no conditions on `s`.
